US07612084B2
6-(But-3-en-1-yloxy)hexanenitrile
6-Bromocapronitrile (1.19 ml, 9.00 mmol) and 3-buten-1-ol (946 ul, 11.0 mmol) were added to a stirred solution of potassium hydroxide (6.16 g, 110 mmol) and tetra-butylammonium bromide (434 mg, 1.35 mmol) in water (6 ml) and dichloromethane (2 ml). The reaction was stirred at room temperature for 4 days and then washed with diethyl ether (2×50 ml). The combined organics were washed with water (3×30 ml), dried (magnesium sulphate) and the solvent removed in vacuo to furnish the title compound as a colourless oil, 1.48 g.

reactant | 6-Bromocapronitrile | 9.00 mmol, 1.19 ml | BrCCCCCC#N | C6H10BrN
reactant | 3-buten-1-ol | 11.0 mmol, 946 ul | C(CC=C)O | C4H8O
reactant | potassium hydroxide | 110 mmol, 6.16 g | [OH-].[K+]
catalyst | tetra-butylammonium bromide | 1.35 mmol, 434 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 6 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6-(But-3-en-1-yloxy)hexanenitrile | C(CC=C)OCCCCCC#N | C10H17NO
